US05238938
30 Milliliters of water and 7.0 g of sodium hydrogen carbonate were added to a suspension of 17.5 g of diethyl aminomalonate hydrochloride in 150 ml of dichloromethane. After 20 minutes, the dichloromethane layer was separated and dried over magnesium sulfate. The solvent was removed by evaporation under reduced pressure to obtain colorless oily diethyl aminomalonate. The diethyl aminomalonate was made into a solution of the diethyl aminomalonate, 10.0 g of α-hydroxyisocaproic acid and 8.7 g of N-hydroxysuccinimide dissolved in 200 ml of dioxane. To the solution was added 15.7 g of N,N'-dicyclohexylcarbodiimide. The mixture was stirred for 16 hours at room temperature and then filtered. The filtrate was subjected to removal of the solvent by evaporation. The residue was mixed with ethyl acetate, and the mixture was washed with 10% hydrochloric acid, water, an aqueous solution saturated with sodium hydrogen carbonate, and an aqueous solution saturated with NaCl solution in this order, and dried over magnesium sulfate. The solvent was removed by evaporation to obtain 29.19 g of diethyl N-(2-hydroxyimino- 4-methylpentanoyl)aminomalonate (Compound B-25) as a colorless oily substance.

reactant | water | O | H2O
reactant | sodium hydrogen carbonate | 7.0 g | C(O)([O-])=O.[Na+]
reactant | diethyl aminomalonate hydrochloride | 17.5 g | Cl.NC(C(=O)OCC)C(=O)OCC
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | diethyl aminomalonate | NC(C(=O)OCC)C(=O)OCC | C7H13NO4
